US06156700
Preparation of 5-Nitro-1,2-benzisoxazol-3-ol
1,2-Benzisoxazol-3-ol (19.7 g, 0.146 mol) is added portionwise to concentrated sulfuric acid. The resultant reaction mixture is treated dropwise with 70% nitric acid (11.3 mL), stirred for 90 minutes, and poured onto ice. The resultant aqueous mixture is filtered to obtain a waxy paste. The paste is recrystallized from a methanol/water mixture to give the title product as a solid which is identified by 1H NMR spectral analysis.

reactant | 1,2-Benzisoxazol-3-ol | 0.146 mol, 19.7 g | O1N=C(C2=C1C=CC=C2)O | C7H5NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 11.3 mL | [N+](=O)(O)[O-] | HNO3
product | 5-Nitro-1,2-benzisoxazol-3-ol | [N+](=O)([O-])C=1C=CC2=C(C(=NO2)O)C1 | C7H4N2O4
